US06130338
To a solution of 15.9 g (0.1 mol) of 1-benzyl-3-pyrroline, 12.0 g (0.12 mol) of 98% sulfuric acid, and 60.0 g of acetone in a quartz round flask reactor, 45.6 g (0.20 mol) of (NH4)2S2O8 (ammonium peroxydisulfate produced by Mitsubishi Gas Chemical Industry Co., Ltd.) was added with stirring and allowed to react for 5 days at room temperature with irradiation by 500 W Xe lamps (UXL-500D xenon lamp produced by Ushio). 57.9 g (0.3 mol) of 28wt % NaOMe in methanol solution (produced by Katayama Chemical Industry Co., Ltd.) was continuously added to the reaction mixture and stirred for 5 hours under reflux. After completion, acetone and methanol were evaporated under reduced pressure, and extracted with toluene and water. After the solvent was evaporated under reduced pressure, 15.8 g of 1-benzyl-4-methoxy-3-pyrrolidinol (yield 76.0%) was obtained.

reactant | 1-benzyl-3-pyrroline | 0.1 mol, 15.9 g | C(C1=CC=CC=C1)N1CC=CC1 | C11H13N
reactant | sulfuric acid | 0.12 mol, 12.0 g | S(O)(O)(=O)=O | H2O4S
reactant | acetone | 60.0 g | CC(=O)C | C3H6O
reactant | NaOMe | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 1-benzyl-4-methoxy-3-pyrrolidinol | 15.8 g, yield 76.0% | C(C1=CC=CC=C1)N1CC(C(C1)OC)O | C12H17NO2
